US05919777
N-((1R)-2-((2R)-2-Benzyl-3-oxopiperazin-1-yl)-1-((2-naphthyl)methyl)- 2-oxoethyl)-N-methylcarbamic acid tert-butyl ester (0.405 g; 0.808 mmol) was dissolved in methylene chloride (5 ml) and trifluoroacetic acid (5 ml) and stirred 10 min at room temperature. Water (10 ml) and sodium hydrogencarbonate were added to pH 8. The reaction mixture was extracted with methylene chloride (2×30 ml), dried over magnesium sulfate and evaporated in vacuo to afford 0.302 g of (3R)-3-benzyl-4-((2R)-2-methylamino-3-(2-naphthyl)propionyl)piperazin-2-one.

reactant | N-((1R)-2-((2R)-2-Benzyl-3-oxopiperazin-1-yl)-1-((2-naphthyl)methyl)- 2-oxoethyl)-N-methylcarbamic acid tert-butyl ester | 0.808 mmol, 0.405 g | C(C)(C)(C)OC(N(C)[C@@H](C(=O)N1[C@@H](C(NCC1)=O)CC1=CC=CC=C1)CC1=CC2=CC=CC=C2C=C1)=O | C30H35N3O4
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | 10 ml | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (3R)-3-benzyl-4-((2R)-2-methylamino-3-(2-naphthyl)propionyl)piperazin-2-one | 0.302 g | C(C1=CC=CC=C1)[C@@H]1C(NCCN1C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)=O | C25H27N3O2
